US08222416B2
To a mixture of 5-methyl-1H-pyrrolo[2,3-b]pyridine (3.5 g, 26.5 mmol), triethylamine (8.03 g, 79.5 mmol), and 4-dimethylaminopyridine (0.32 g, 2.65 mmol) in dichloromethane (100 mL) at 0° C. was added benzenesulfonyl chloride (7.0 g, 39.8 mmol). After stirring for 48 h at room temperature, the reaction was quenched with water (50 mL) and extracted with dichloromethane (2×120 mL). The organic layer was washed with a saturated sodium bicarbonate solution (2×30 mL), water (2×30 mL), brine (50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 33% dichloromethane/hexanes) to afford 1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridine (4.6 g, 64%) as white solid: LC/MS m/e calcd for C14H12N2O4S [M+H]+ 273.33, observed 272.9.

reactant | 5-methyl-1H-pyrrolo[2,3-b]pyridine | 26.5 mmol, 3.5 g | CC=1C=C2C(=NC1)NC=C2 | C8H8N2
reactant | triethylamine | 79.5 mmol, 8.03 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 39.8 mmol, 7.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | 4-dimethylaminopyridine | 2.65 mmol, 0.32 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridine | 4.6 g, 64% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C | C14H12N2O2S
